### PR TITLE
Add Erdős Problem 1216 (largest transitive subtournaments), link the formal disproof

### LINKED ISSUE #6267: Erdős Problem 1216
### What is the Erdős problem?

https://www.erdosproblems.com/1216

A tournament is a complete directed graph. Let $f(n)$ be such that every tournament on $n$ vertices contains a transitive tournament on $f(n)$ vertices. Is it true that $f(n)=\lfloor \log_2 n\rfloor +1$?

Status: disproved (Reid–Parker; already $f(14) = 5$). A formal proof exists in plby/lean-proofs (`Erdos1216.not_erdos_1216`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6267.

### What changed
Adds `FormalConjectures/ErdosProblems/1216.lean` with `HasTransitiveSubtournament G k` (an injective `v : Fin k → V` with `v i → v j` for `i < j`, i.e. a copy of the transitive tournament `TT_k`), `f n` (via `sSup`, over `Digraph (Fin n)` satisfying the existing `Digraph.IsTournament`) and:
- `erdos_1216` (`research solved`, `answer(False)`): `f n = ⌊log₂ n⌋ + 1` fails (Reid–Parker [RePa70]). Linked to plby/lean-proofs `Erdos1216.not_erdos_1216` (Codex and GPT-5.6 Sol; two Mathlib-only files).
- `erdos_1216.variants.fourteen` (also linked): `f 14 = 5`.
- Variants `stearns`, `erdos_moser`, `seven`, `reid_parker`, `sanchez_flores` for the known bounds.

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos1216.not_erdos_1216` → `[propext, Classical.choice, Quot.sound]` (no `native_decide`; the certificates are checked by `decide`).
- Bridge compiled against both linked statements on top of a renamed copy, same axioms. plby encodes tournaments on `Fin n` as bit-vectors of length `n²` and takes `f` as `Nat.findGreatest`; the bridge converts in both directions and shows the two values of `f 14` agree:

<details>
<summary>Bridge</summary>

```lean
namespace Bridge1216

open Erdos1216Plby

/-- The digraph attached to a bit-vector tournament. -/
def toDigraph {n : ℕ} (T : Tournament n) : Digraph (Fin n) where
  Adj i j := T.arc i j = true

lemma toDigraph_isTournament {n : ℕ} (T : Tournament n) : (toDigraph T).IsTournament := by
  refine ⟨fun v => ?_, fun u v huv => ?_⟩
  · simp [toDigraph, Tournament.arc_self]
  · simp only [toDigraph]
    rw [Tournament.arc_reverse T huv]
    simp

lemma hasTransitive_toDigraph {n k : ℕ} (T : Tournament n) :
    Erdos1216.HasTransitiveSubtournament (toDigraph T) k ↔ HasTransitiveTournament T k :=
  Iff.rfl

/-- The bit-vector tournament attached to a digraph tournament. -/
def toBitVec {n : ℕ} (G : Digraph (Fin n)) [DecidableRel G.Adj] : Tournament n :=
  (BitVec.ofBoolListLE (List.ofFn fun p : Fin (n * n) =>
    decide (G.Adj ⟨p.1 / n, Nat.div_lt_of_lt_mul p.2⟩
      ⟨p.1 % n, Nat.mod_lt _ (Nat.pos_of_mul_pos_left (lt_of_le_of_lt (Nat.zero_le _) p.2))⟩))).cast
    (by simp)

lemma toBitVec_getLsbD {n : ℕ} (G : Digraph (Fin n)) [DecidableRel G.Adj] (a b : Fin n) :
    (toBitVec G).getLsbD (a.1 * n + b.1) = decide (G.Adj a b) := by
  have hidx : a.1 * n + b.1 < n * n := by
    calc a.1 * n + b.1 < a.1 * n + n := by omega
      _ = (a.1 + 1) * n := by ring
      _ ≤ n * n := Nat.mul_le_mul_right n (by omega)
  have h1 : (a.1 * n + b.1) / n = a.1 := by
    rw [Nat.add_comm, Nat.add_mul_div_right _ _ (by omega : 0 < n), Nat.div_eq_of_lt b.2]; simp
  have h2 : (a.1 * n + b.1) % n = b.1 := by
    rw [Nat.add_comm, Nat.add_mul_mod_self_right, Nat.mod_eq_of_lt b.2]
  simp only [toBitVec, BitVec.getLsbD_cast, BitVec.getLsbD_ofBoolListLE]
  rw [List.getD_eq_getElem _ _ (by simpa using hidx), List.getElem_ofFn]
  congr 2 <;> exact Fin.ext (by simp [h1, h2])

lemma toBitVec_arc {n : ℕ} (G : Digraph (Fin n)) [DecidableRel G.Adj] (hG : G.IsTournament)
    (i j : Fin n) : (toBitVec G).arc i j = true ↔ G.Adj i j := by
  unfold Tournament.arc
  by_cases hij : i = j
  · subst hij; simp [hG.1 i]
  rcases lt_or_gt_of_ne hij with h | h
  · simp [hij, h, toBitVec_getLsbD]
  · have hne : ¬ i < j := not_lt.2 h.le
    simp only [hij, hne, if_false, toBitVec_getLsbD, Bool.not_eq_true', decide_eq_false_iff_not]
    have := hG.2 i j hij
    tauto

lemma hasTransitive_toBitVec {n k : ℕ} (G : Digraph (Fin n)) [DecidableRel G.Adj]
    (hG : G.IsTournament) :
    Erdos1216.HasTransitiveSubtournament G k ↔ HasTransitiveTournament (toBitVec G) k := by
  unfold Erdos1216.HasTransitiveSubtournament HasTransitiveTournament
  simp only [toBitVec_arc G hG]

lemma f_fourteen : Erdos1216.f 14 = 5 := by
  classical
  unfold Erdos1216.f
  have h5 : 5 ∈ {k | ∀ G : Digraph (Fin 14), G.IsTournament →
      Erdos1216.HasTransitiveSubtournament G k} := by
    intro G hG
    rw [hasTransitive_toBitVec G hG]
    exact directed_ramsey_five_fourteen.2 _
  have hle : ∀ k ∈ {k | ∀ G : Digraph (Fin 14), G.IsTournament →
      Erdos1216.HasTransitiveSubtournament G k}, k ≤ 14 := by
    intro k hk
    obtain ⟨v, hv, -⟩ := hk (toDigraph 0) (toDigraph_isTournament 0)
    simpa using Fintype.card_le_of_injective v hv
  apply le_antisymm
  · refine csSup_le ⟨5, h5⟩ fun k hk => ?_
    by_contra hlt
    push Not at hlt
    have hguar : Guaranteed 14 k := ⟨hle k hk, fun T =>
      (hasTransitive_toDigraph T).1 (hk (toDigraph T) (toDigraph_isTournament T))⟩
    exact extremal14_has_no_transitive_six ((guaranteed_mono (by omega) hguar).2 extremal14)
  · exact le_csSup ⟨14, hle⟩ h5

theorem erdos_1216_fourteen_bridge : type_of% Erdos1216.erdos_1216.variants.fourteen :=
  f_fourteen

theorem erdos_1216_bridge : type_of% Erdos1216.erdos_1216 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  have := h 14 (by norm_num)
  rw [f_fourteen] at this
  have hlog : Nat.log 2 14 = 3 := by
    rw [Nat.log_eq_iff (by norm_num)]; norm_num
  omega

end Bridge1216
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1216»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1216.lean [hunk 1]
```diff
@@ -0,0 +1,118 @@
...
+@[expose] public section
+
+namespace Erdos1216
+
+/--
+A tournament `G` contains a transitive tournament on `k` vertices: `k` distinct vertices
+`v 0, …, v (k-1)` with `v i → v j` whenever `i < j`.
+-/
+def HasTransitiveSubtournament {V : Type*} (G : Digraph V) (k : ℕ) : Prop :=
+  ∃ v : Fin k → V, Function.Injective v ∧ ∀ i j : Fin k, i < j → G.Adj (v i) (v j)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1216.lean:45]: HasTransitiveSubtournament belongs in Combinatorics/Digraph/Tournament.lean, I suggest

**Review by mo271 — COMMENTED** [review]
thanks!

File: FormalConjectures/ErdosProblems/1216.lean [hunk 2]
```diff
@@ -0,0 +1,118 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1216.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
